* Lab3 
* CMOS inverter subcircuit built from the 22nm PTM-HP BSIM4 model card
.include "../22nm_HP.pm"

.param nom_vdd=0.8
.param gnd_vss=0.0
.param X=5p
.param k=1.3
.param LPCH=22n
.param LNCH=22n
.param WN=44n
.param WP='k*WN'
.param vgate=0.0
.param vdrain=0.0

VDD vdd 0 DC nom_vdd
VSS vss 0 DC gnd_vss
VGATE gate 0 DC vgate
VDRAIN drain 0 DC vdrain

MP1 drain gate vdd vdd pmos L=LPCH W=WP
*MN1 drain gate vss vss nmos L=LNCH W=WN


.option post=2
.probe DC ID(MP1) IS(MP1)
.measure DC VDS PARAM='V(drain) - V(vdd)'
.measure DC VGS PARAM='V(gate) - V(vdd)'

.dc SWEEP vdrain LIN 0 0.8 0.01 SWEEP vgate LIN 0.0 0.8 -0.1

.end
